US06723722B1
2-(4-Chloro-2-pyridinyl)acetamide
A solution of 4-chloro-2-methylpyridine (1.28 g) in diethyl ether (15 ml) was treated at −70° C. dropwise with a 2M lithium diisopropylamide heptane/THF solution (6.0 ml) and stirred at −70° C. for 30 minutes. The mixture was treated dropwise also with diethyl carbonate (1.45 ml) at −70° C., and stirred at −70° C. for 1 hour. The reaction mixture was allowed to warm to room temperature, and combined with aqueous sodium bicarbonate and dichloromethane, and the organic phase was isolated, dried and concentrated. A mixture of the resultant residue and a 13% solution of ammonia in methanol (5 ml) was stirred at 75° C. for 7 hours. The reaction mixture was concentrated, and the resultant residue was triturated from diethylether to obtain the title compound (0.47 g) as a tan powder.

reactant | 4-chloro-2-methylpyridine | 1.28 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | lithium diisopropylamide heptane THF | 2M, 6.0 ml | CCCCCCC.C(C)(C)[N-]C(C)C.[Li+].C1CCOC1
reactant | diethyl carbonate | 1.45 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Chloro-2-pyridinyl)acetamide | 0.47 g | ClC1=CC(=NC=C1)CC(=O)N | C7H7ClN2O
